US06248738B1
NaH (18 mg, 80% dispersion by wt in mineral oil, 0.60 mmol) was added in one portion to a solution of guanidine hydrochloride (90 mg, 0.94 mmol) in DMSO (2 mL) and the mixture was heated at 50° C. under N2 for 30 min. 1,4-Dichloro-7-(phenylsulfonyl)isoquinoline (80 mg, 0.236 mmol) was added and the mixture heated at 50-60 C. for 0.5 h. The cooled mixture was poured into water (30 mL) and extracted with EtOAc (3×20 mL). The combined organic extracts were washed with brine, dried (Na2SO4) and evaporated in vacuo. The residue was dissolved in EtOAc and a solution of HCl in Et2O (1 M) was added which gave a precipitate. The solvents were evaporated in vacuo and the residue triturated with EtOAc to give 4-chloro-1-guanidino-7-(phenylsulphonyl)isoquinoline (65 mg, 0.18 mmol) as a yellow solid.

reactant | NaH | 0.60 mmol, 18 mg | [H-].[Na+]
reactant | guanidine hydrochloride | 0.94 mmol, 90 mg | Cl.NC(=N)N
reactant | 1,4-Dichloro-7-(phenylsulfonyl)isoquinoline | 0.236 mmol, 80 mg | ClC1=NC=C(C2=CC=C(C=C12)S(=O)(=O)C1=CC=CC=C1)Cl | C15H9Cl2NO2S
reactant | water | 30 mL | O | H2O
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
product | 4-chloro-1-guanidino-7-(phenylsulphonyl)isoquinoline | 0.18 mmol, 65 mg | ClC1=CN=C(C2=CC(=CC=C12)S(=O)(=O)C1=CC=CC=C1)NC(=N)N | C16H13ClN4O2S
